US04980356
2-Amino-6-trifluoromethoxybenzothiazole (9.4 g), N-(2-chloroethyl)acetamide (9.7 g) and sodium iodide (13.5 g) in methyl ethyl ketone (30 cc) are heated for 40 hours to boiling. After cooling to a temperature in the region of 20° C., the reaction medium is added to distilled water (200 cc), treated with 1N sodium hydroxide (40 cc) and then extracted with ethyl acetate (200 cc). After drying over magnesium sulphate and then concentration to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa), the residue is purified by chromatography on a silica column with a mixture of ethyl acetate and methanol (90:10 by volume) as eluent. 3-(2-Acetamidoethyl)-2-imino-6-trifluoromethoxybenzothiazoline (2.7 g) is obtained, which product is converted to a hydrochloride subliming at about 180° C.

reactant | 2-Amino-6-trifluoromethoxybenzothiazole | 9.4 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | N-(2-chloroethyl)acetamide | 9.7 g | ClCCNC(C)=O | C4H8ClNO
reactant | sodium iodide | 13.5 g | [I-].[Na+]
solvent | methyl ethyl ketone | 30 cc | C(C)C(=O)C | C4H8O
product | 3-(2-Acetamidoethyl)-2-imino-6-trifluoromethoxybenzothiazoline | 2.7 g | C(C)(=O)NCCN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=N | C12H12F3N3O2S
